US09023847B2
To a solution of 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide (45 mg, 0.13 mmol), 4-methoxy benzaldehyde (16 uL, 0.13 mmol), and glacial acetic acid (8 uL, 0.13 mmol) in methanol (1 mL) was added sodium triacetoxy borohydride (84 mg, 0.4 mmol) portionwise. The solution was stirred at 50° C. for 18 h. The solution was absorbed onto Celite and purified by ISCO Companion (silica 0-10% methanol, methylene chloride, 1% ammonium hydroxide) to afford 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]-amide (56 mg, 75%) LCMS (ESI) 422 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 10.26 (1H, br. s.) 7.98-8.07 (2H, m) 7.77 (1H, d, J=5.47 Hz) 7.46 (1H, d, J=5.47 Hz) 7.30 (1H, d, J=3.32 Hz) 7.19 (2H, d, J=8.59 Hz) 6.76-6.84 (2H, m) 6.43 (1H, d, J=3.51 Hz) 3.69 (3H, s) 3.60 (2H, s) 3.33 (2H, q, J=6.25 Hz) 2.61 (2H, t, J=6.64 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | 0.13 mmol, 45 mg | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | 4-methoxy benzaldehyde | 0.13 mmol, 16 uL | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | acetic acid | 0.13 mmol, 8 uL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxy borohydride | 0.4 mmol, 84 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]-amide | 56 mg, 75% | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
